US07018997B2
2-Formyl-7-chloroimidazo[2,1-b]-benzthiazole was prepared according to the procedure outlined in Example 1, (Step 3). Starting from 7-chloroimidazo[2,1-b]-benzthiazole-2-methanol (4.0 g 16.8 mmol) in methylene chloride/MeOH (300 mL: 50 mL) and active MnO2 (20 g, excess), 2.2 g (55% yield) of the aldehyde derivative was isolated as brown solid. (M+H) 236.

reactant | 7-chloroimidazo[2,1-b]-benzthiazole-2-methanol | 16.8 mmol, 4.0 g | ClC1=CC2=C(N3C(S2)=NC(=C3)CO)C=C1 | C10H7ClN2OS
solvent | methylene chloride MeOH | 300 mL | C(Cl)Cl.CO
solvent | MnO2 | 20 g | O=[Mn]=O
product | 2-Formyl-7-chloroimidazo[2,1-b]-benzthiazole | C(=O)C=1N=C2SC3=C(N2C1)C=CC(=C3)Cl | C10H5ClN2OS
